US07138425B2
a) 2-(3-Nitro-6-propylaminophenyl)-5-(2-benzothiophenyl)benzoxazole
Prepared by the method of Example 15d), from 2-(3-nitro-6-propylaminophenyl)-5-bromobenzoxazole (400 mg, 1.59 mmol) and benzothiophene-2-boronic acid (283 mg, 1.59 mmol) the subtitle compound was obtained (386 mg, 57%). The product was used directly in the next step without purification.

reactant | 2-(3-nitro-6-propylaminophenyl)-5-bromobenzoxazole | 1.59 mmol, 400 mg | [N+](=O)([O-])C=1C=C(C(=CC1)NCCC)C=1OC2=C(N1)C=C(C=C2)Br | C16H14BrN3O3
reactant | benzothiophene-2-boronic acid | 1.59 mmol, 283 mg | S1C(=CC2=C1C=CC=C2)B(O)O | C8H7BO2S
product | 2-(3-Nitro-6-propylaminophenyl)-5-(2-benzothiophenyl)benzoxazole | [N+](=O)([O-])C=1C=C(C(=CC1)NCCC)C=1OC2=C(N1)C=C(C=C2)C=2SC1=C(C2)C=CC=C1 | C24H19N3O3S
